US06552188B2
Synthesis of (E)-5-bromo-1-(4-chlorophenyl)-1-pentene
4-Chlorobenzaldehyde (1.0 g) and 4-bromobutyl-triphenylphosphonium bromide (4.08 g) were treated in the same manner as in Preparation Example 83 to obtain the title compound.

reactant | 4-Chlorobenzaldehyde | 1.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-bromobutyl-triphenylphosphonium bromide | 4.08 g | [Br-].BrCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-5-bromo-1-(4-chlorophenyl)-1-pentene | BrCCC/C=C/C1=CC=C(C=C1)Cl | C11H12BrCl
